US06197962B1
First, 0.96 g (6.00 mmol) of 3-methyl-l-phenyl-2-buten-1-one and 0.84 g (5.00 mmol) of benzenesulfonyl cyanide were introduced to a 3-necked flask (25 ml volume) equipped with a thermometer, a magnetic stirrer, a Dean-Stark water type distilling receiver and a condenser tube. Toluene (5 ml) as the solvent and butanol (0.5 ml) were added, and 0.12 g (0.50 mmol) of tributyl borate was added. Then the mixture was heated under reflux for 8 hours while agitating at an internal temperature of 112° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure to give the desired, crude product. The crude product was recrystallized with 5 ml of ethyl acetate to give 0.42 g of 2-benzenesulfonyl-4-methyl-6-phenylpyridine with the following properties as colorless crystals (purity of 99%, yield of 28% based on benzenesulfonyl cyanide).

reactant | 3-methyl-l-phenyl-2-buten-1-one | 6.00 mmol, 0.96 g | CC(=CC(=O)C1=CC=CC=C1)C | C11H12O
reactant | benzenesulfonyl cyanide | 5.00 mmol, 0.84 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | tributyl borate | 0.50 mmol, 0.12 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
product | 2-benzenesulfonyl-4-methyl-6-phenylpyridine | 0.42 g, yield of 28% | C1(=CC=CC=C1)S(=O)(=O)C1=NC(=CC(=C1)C)C1=CC=CC=C1 | C18H15NO2S
